* Subcircuit dff
.subckt dff net-_u1-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ 
* d:\fossee\esim\library\subcircuitlibrary\dff\dff.cir
* u3  net-_u1-pad1_ net-_u2-pad2_ net-_u3-pad3_ d_nand
* u4  net-_u2-pad2_ net-_u1-pad2_ net-_u4-pad3_ d_nand
* u5  net-_u2-pad6_ net-_u3-pad3_ net-_u5-pad3_ d_and
* u6  net-_u4-pad3_ net-_u2-pad3_ net-_u6-pad3_ d_and
* u7  net-_u2-pad4_ net-_u5-pad3_ net-_u2-pad5_ d_nand
* u8  net-_u2-pad5_ net-_u6-pad3_ net-_u2-pad4_ d_nand
* u1  net-_u1-pad1_ net-_u1-pad2_ d_inverter
a1 [net-_u1-pad1_ net-_u2-pad2_ ] net-_u3-pad3_ u3
a2 [net-_u2-pad2_ net-_u1-pad2_ ] net-_u4-pad3_ u4
a3 [net-_u2-pad6_ net-_u3-pad3_ ] net-_u5-pad3_ u5
a4 [net-_u4-pad3_ net-_u2-pad3_ ] net-_u6-pad3_ u6
a5 [net-_u2-pad4_ net-_u5-pad3_ ] net-_u2-pad5_ u7
a6 [net-_u2-pad5_ net-_u6-pad3_ ] net-_u2-pad4_ u8
a7 net-_u1-pad1_ net-_u1-pad2_ u1
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u3 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u4 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u7 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u8 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u1 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends dff